US07592347B2
Step 1: 1-Benzyl-4-(1-tert-butoxycarbonyl-piperidine-4-carbonyl)-[1,4]-diazepane
1-Benzyl-[1,4]-diazepane (3.78 g) and 1-tert-butoxycarbonyl-piperidine-4-carboxylic acid (5.0 g) were dissolved in DCM (150 ml) and TEA (3.6 ml) was added followed by HOBT (1.34 g) and finally EDC (4.90 g). The reaction was stirred at rt overnight. The reaction mixture was then evaporated to a minimum, re-dissolved in DCM (50 ml) and washed with saturated sodium hydrogen carbonate solution (3×50 ml) and brine (50 ml). The organic layer was dried (MgSO4) and evaporated to a crude which was purified by column chromatography [silica gel, step gradient 0-10% MeOH (containing 10% 0.880 ammonia solution) in DCM]. Fractions containing pure desired product were combined and evaporated to give the subtitled compound as a pale brown solid (7.1 g).

reactant | 1-Benzyl-[1,4]-diazepane | 3.78 g | C(C1=CC=CC=C1)N1CCNCCC1 | C12H18N2
reactant | 1-tert-butoxycarbonyl-piperidine-4-carboxylic acid | 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | HOBT | 1.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 4.90 g
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-(1-tert-butoxycarbonyl-piperidine-4-carbonyl)-[1,4]-diazepane | 7.1 g | C(C1=CC=CC=C1)N1CCN(CCC1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C23H35N3O3
